US04961876
A. (S)-(+)-4-(2-chloro-3-methyl-butyryloxy)-benzoic acid
4-Hydroxybenzoic acid (8.9 g, 0.065 moles) is dissolved in 20 mL of absolute pyridine and 10 g (0.065 moles) of (S)-(+)-2-chloro-3-methylbutyryl chloride are added dropwise with stirring at 0° to 5° C. The mixture is allowed to stand for 4 hours at room temperature and then poured onto ice/conc. HCl (200 g/30 mL). The precipitate is filtered off with suction and washed several times with dilute HCl and water. The residue is recrystallized from methanol/water.

reactant | 4-Hydroxybenzoic acid | 0.065 moles, 8.9 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | (S)-(+)-2-chloro-3-methylbutyryl chloride | 0.065 moles, 10 g | Cl[C@H](C(=O)Cl)C(C)C | C5H8Cl2O
reactant | HCl | 30 mL, 200 g | Cl | ClH
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | (S)-(+)-4-(2-chloro-3-methyl-butyryloxy)-benzoic acid | Cl[C@H](C(=O)OC1=CC=C(C(=O)O)C=C1)C(C)C | C12H13ClO4
